US05652238
To a mixture of 200 mg (0.508 mmol) of U-100592 (Ex. 1), 149 mg (1.47 mmol, 0.205 mL), and 5 mL methylene chloride at 0° C. benzyloxyacetylchloride was added dropwise. The reaction was allowed to warm slowly up to room temperature. After stirring for 5 hours, 5 mL of 1N HCl was added, and the resulting layers were separated. The aqueous layer was extracted with methylene chloride (3×5 mL). The combined organic layers were washed with brine and dried (MgSO4) then filtered and concentrated to a white solid. The crude was dissolved in a small amount of methylene chloride and methanol and was placed on a 22 cm×2.5 cm 40-60 μ silica column. The column was eluted with ethyl acetate, 2% methanol/ethylacetate, 4% methanol/ethyl acetate, 6% methanol/ethyl acetate, 8% methanol/ethyl acetate, and 10% methanol/ethyl acetate (250 mL each). The appropriate fractions were pooled to provide 120 mg (44%) of benzyloxyacetic acid, 2-[-[4-[5-(acetylamino)methyl]-2-oxo-3-oxazolidinyl]-2-fluorophenyl]-1-piperazinyl]-2-oxoethyl ester, (S)-; as a white solid (mp=146°-148° C.).

reactant | U-100592 | 0.508 mmol, 200 mg | CC(=O)NC[C@H]1CN(C(=O)O1)C=2C=CC(=C(C2)F)N3CCN(CC3)C(=O)CO | C18H23FN4O5
reactant | benzyloxyacetylchloride | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
reactant | HCl | 1N, 5 mL | Cl | ClH
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | benzyloxyacetic acid | 120 mg, 44% | C(C1=CC=CC=C1)OCC(=O)O | C9H10O3
